US09376454B2
Step 3. Synthesis of (R)-3-(3,4-bis((methylamino)methyl)benzamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 3-((2R)-2-(3,4-bis((tert-butoxycarbonyl(methyl)amino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 398 (MH)+.

reactant | tert-butyl 3-((2R)-2-(3,4-bis((tert-butoxycarbonyl(methyl)amino)methyl)benzamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | C(C)(C)(C)OC(=O)N(C)CC=1C=C(C(=O)N[C@@H](CC=2C(=C(C(=O)OC(C)(C)C)C=CC2)OC)B2OC3(C4C(C(CC3O2)C4)(C)C)C)C=CC1CN(C)C(=O)OC(C)(C)C | C45H66BN3O10
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(3,4-bis((methylamino)methyl)benzamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | CNCC=1C=C(C(=O)N[C@@H]2B(OC3=C(C2)C=CC=C3C(=O)O)O)C=CC1CNC | C20H24BN3O5
